US05348977
N,N'-Bis(2-chloroethyl)ethylenediamine (BCE) A solution of N,N'-bis(2-hydroxyethyl)ethylenediamine (5.4 g, 0.036 mol) in SOCl2 (60 mL) was heated at 90° C. for 2 h, then stirred at room temperature for 24 h. Excess SOCl2 was then removed under reduced pressure, and the residue was triturated with isopropanol. Crystallisation from boiling isopropanol (800 mL) containing just enough water to dissolve the solids gave N,N'-bis(2-chloroethyl)ethylenediamine dihydrochloride (BCE.2HCl).

reactant | N,N'-Bis(2-chloroethyl)ethylenediamine | ClCCNCCNCCCl | C6H14Cl2N2
reactant | N,N'-bis(2-hydroxyethyl)ethylenediamine | 0.036 mol, 5.4 g | OCCNCCNCCO | C6H16N2O2
solvent | SOCl2 | 60 mL | O=S(Cl)Cl | Cl2OS
product | N,N'-bis(2-chloroethyl)ethylenediamine dihydrochloride | Cl.Cl.ClCCNCCNCCCl | InChI=1S/C6H14Cl2N2.2ClH/c7-1-3-9-5-6-10-4-2-8;;/h9-10H,1-6H2;2*1H
